data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_580319_2,[C:1]1([C:3]([H:11])([H:13])[H:14])([C:4]([H:12])([H:15])[H:16])/[C:5](=[C:6]2/[C:2]([H:9])([H:10])[O:8]2)[O:7]1>>[C:1]1([C:3]([H:11])([H:13])[H:14])([C:4]([H:12])([H:15])[H:16])/[C:5](=[C:6](/[C:2](=[O:8])[H:10])[H:9])[O:7]1,56.17317249999729
MR_484501_0,[C:1](/[C:4]([N:6]([H:11])[H:12])=[C:8](\[N:7]([H:13])[H:14])[H:17])([C:5]([C:3]([C:2]([H:18])([H:19])[H:20])=[O:10])=[C:9]([H:21])[H:22])([H:15])[H:16]>>[C:1]1([H:15])([H:16])[C:4]([N:6]([H:11])[H:12])([C:8]([C:3]([C:2]([H:18])([H:19])[H:20])=[O:10])([N:7]([H:13])[H:14])[H:17])[C:5]1=[C:9]([H:21])[H:22],65.15081500001656
MR_561261_1,[N:1]([C:3](=[O:7])[H:10])([O:4][C:2]([O:5][H:8])=[O:6])[H:9]>>[N:1]1([H:9])[C@@:2]([O:5][H:8])([O:6][C:3](=[O:7])[H:10])[O:4]1,71.32478749998057
MR_202081_2,[C:1]1([H:9])([H:10])[N:4]([C:2]([H:12])([H:13])[H:14])[N:5]([H:8])[C:7]([H:11])=[C:6]1[C:3]([H:15])([H:16])[H:17]>>[C:1]1([H:9])([H:10])[N:4]([C:2]([H:12])([H:13])[H:14])[C:6]1([C:3]([H:15])([H:16])[H:17])/[C:7](=[N:5]\[H:8])[H:11],59.21529250002124
MR_639199_1,[C:1]([C:3](/[C:5](=[C:4](\[O:6][C:2]([O:7][H:10])=[O:9])[H:12])[H:13])=[N:8]/[H:11])([H:14])([H:15])[H:16]>>[C:1](/[C:3]([C:5]([C:2]([O:7][H:10])=[O:9])([C:4](=[O:6])[H:12])[H:13])=[N:8]/[H:11])([H:14])([H:15])[H:16],61.01308000001225
MR_122401_1,[C:1](/[C:3]([O:6][H:9])=[N:7]/[C:2]([H:13])([H:14])[H:15])([O:5][C:4](=[O:8])[H:12])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C@:3]([O:6][H:9])([N:7]([C:2]([H:13])([H:14])[H:15])[C:4](=[O:8])[H:12])[O:5]1,55.46786249999457
MR_221947_0,[C:1]([C:2]([H:13])([H:14])[H:15])([N:5]([H:9])[H:10])(/[N:7]=[C:4](\[C:3]([H:16])([H:17])[H:18])[N:6]([H:11])[H:12])[H:8]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[N:7]/[C:4]([C:3]([H:16])([H:17])[H:18])([N:5]([H:9])[H:10])[N:6]([H:11])[H:12])[H:8],57.419387500025465
MR_575387_0,[C:1]1([C:2]([H:12])([H:13])[H:14])([N:5]([H:9])[H:10])[N:7]=[C:4]([C:3]([H:15])([H:16])[H:17])[C:6]([H:11])=[N:8]1>>[C:1]1([C:2]([H:12])([H:13])[H:14])=[N:8][C:6]([N:5]([H:9])[H:10])([H:11])[C:4]([C:3]([H:15])([H:16])[H:17])=[N:7]1,68.67799249999294
MR_253514_1,[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([O:7][H:10])=[O:8])([O:5][C:2]([H:11])([H:12])[H:13])[O:6][H:9]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([O:6][H:9])[C:4]([O:5][C:2]([H:11])([H:12])[H:13])([O:7][H:10])[O:8]1,45.778007500061335
MR_133514_0,[C:1](/[C:3](=[C:4](/[C:2]([H:13])([H:14])[H:16])[N:5]([H:7])[H:8])[N:6]([H:9])[H:10])([H:11])([H:12])[H:15]>>[C:1](/[C:3]([C:4]([C:2]([H:13])([H:14])[H:16])([N:5]([H:7])[H:8])[H:10])=[N:6]/[H:9])([H:11])([H:12])[H:15],63.3775000000351
MR_288549_1,[C:1]([C:2](=[C:5]([H:14])[H:15])[O:6]/[C:4](=[N:7]\[N:3]([H:8])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:2](=[C:5]([H:14])[H:15])[N:7]([N:3]([H:8])[H:9])[C:4](=[O:6])[H:10])([H:11])([H:12])[H:13],42.1786674999818
MR_101138_2,[C:1](/[C:3]([N:4]([H:9])[H:10])=[N:6]\[N:2]([C:5](=[O:7])[H:11])[H:8])([H:12])([H:13])[H:14]>>[C:1]([C@@:3]1([N:4]([H:9])[H:10])[N:2]([H:8])[N:6]1[C:5](=[O:7])[H:11])([H:12])([H:13])[H:14],72.57351250000241
MR_218220_1,[C:1]([C:3]([N:5]([H:12])[H:13])=[O:8])(/[N:7]=[C:2](/[N:4]([H:10])[H:11])[O:6][H:9])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[C:3](=[O:8])[N:7]1[C:2]([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[O:6][H:9],72.83455249998539
MR_60616_1,[C:1]1([C:3]([H:13])([H:14])[H:15])([H:8])[C:2]([H:11])([H:12])[N:7]=[C:4]([N:5]([H:9])[H:10])[O:6]1>>[C:1]1([C:3]([H:13])([H:14])[H:15])([H:8])[C:2]([H:11])([H:12])[N:7]1[C:4]([N:5]([H:9])[H:10])=[O:6],51.27930000001157
MR_376431_1,[C:1]([C:2]([C:5]([C:4]([H:17])([H:18])[H:19])=[O:8])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([N:6]([H:10])[H:11])[O:7][H:9]>>[C:1]([C:2]([C:5]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[O:8][H:9])([H:12])[H:13])([N:6]([H:10])[H:11])=[O:7],58.551397499985285
MR_654766_1,[C:1]([N:4]([N:7]([H:14])[H:15])[H:11])([N:6]([H:12])[H:13])([O:8][H:10])[N:9]=[C:5]([C:2]([H:16])([H:17])[H:21])[C:3]([H:18])([H:19])[H:20]>>[C:1](\[N:6]([H:12])[H:13])([O:8][H:10])=[N:9]/[C:5]([C:2]([H:16])([H:17])[H:21])([C:3]([H:18])([H:19])[H:20])[N:4]([N:7]([H:14])[H:15])[H:11],47.02861500000708
MR_288491_0,[C:1](/[N:7]=[C:4](\[C:2]([H:12])([H:13])[H:14])[N:3]([N:6]=[C:5]([H:15])[H:16])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:7](/[C:4]([C:2]([H:12])([H:13])[H:14])=[N:3]/[H:8])[N:6]=[C:5]([H:15])[H:16])([H:9])([H:10])[H:11],70.36847750000518
MR_9663_0,[C:1](\[N:3]([H:9])[H:10])([O:4][H:6])=[N:5]/[N:2]([H:7])[H:8]>>[C:1](=[N:3]\[H:9])(\[O:4][H:6])[N:5]([N:2]([H:7])[H:8])[H:10],40.18886499997621
MR_224757_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([N:4]([O:7][H:9])[H:10])/[C:6](=[N:8]/[N:5]([H:11])[H:12])[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])=[C:6]([N:8]([N:4]([O:7][H:9])[H:10])[N:5]([H:11])[H:12])[H:13],58.88648250003101
